### PR TITLE
fix floyd/semax_tactics

### PR DESCRIPTION
**Pull request by rinshankaihou**
The style that implicit arguments are inserted is non-uniform and could be improved.

### CODE REVIEW

File: floyd/semax_tactics.v [hunk 1]
```diff
@@ -291,7 +292,7 @@ end.
 
 Ltac abbreviate_semax :=
  match goal with
- | |- semax _ FF _ _ => apply semax_ff
+ | |- semax _ Tauto.FF _ _ => apply semax_ff
```
Comment (mansky1) [inline floyd/semax_tactics.v:295]: Should be `False` instead of `Tauto.FF`

File: floyd/semax_tactics.v [hunk 2]
```diff
@@ -572,23 +573,22 @@ clear H0 IHG.
...
 simpl in H.
 rewrite andb_true_iff in H.
 destruct H.
 auto.
 Qed.
-
+ 
 Lemma leaf_function': 
- forall Vprog Gprog (CS: compspecs) f s,
+ forall `{!externalGS (OK_ty(Σ := Σ)) Σ} Vprog Gprog (CS: compspecs) E f s,
```
Comment (mansky1) [inline floyd/semax_tactics.v:588]: I'm surprised this works! Is it implicitly adding an `Espec` instance as well?

File: floyd/semax_tactics.v [hunk 3]
```diff
@@ -807,9 +807,9 @@ Proof.
     destruct cs2; reflexivity.
 Qed.
 
-Lemma semax_unfold_seq {Espec: OracleKind} {CS: compspecs} : forall c1 c2,
+Lemma semax_unfold_seq `{!externalGS (OK_ty(Σ := Σ)) Σ} {Espec: (@OracleKind Σ)} {CS: compspecs} : forall E c1 c2,
```
Comment (mansky1) [inline floyd/semax_tactics.v:810]: This looks wrong: `OK_ty` accesses a field of `Espec`, so `Espec` should be passed before `externalGS`.

File: floyd/semax_tactics.v (hunk 1 above)
Comment (rinshankaihou) [reply floyd/semax_tactics.v:295]: right

File: floyd/semax_tactics.v (hunk 2 above)
Comment (rinshankaihou) [reply floyd/semax_tactics.v:588]: I have a `Context {Espec}` above; I am going to move all added implicit variables to Context

File: floyd/semax_tactics.v [hunk 4]
```diff
@@ -130,9 +130,10 @@ Ltac simplify_func_tycontext' DD :=
 Ltac simplify_func_tycontext :=
 match goal with
  | |- semax ?DD _ _ _ => simplify_func_tycontext'  DD
- | |- ENTAIL ?DD, _ |-- _ => simplify_func_tycontext'  DD
+ | |- ENTAIL ?DD, _ ⊢ _ => simplify_func_tycontext'  DD
 end.
 
+Context `{!heapGS Σ} {Espec: OracleKind(Σ:=Σ)} `{!externalGS OK_ty Σ}.
```
Comment (mansky1) [inline floyd/semax_tactics.v:136]: Did you start a `Section` here? I think `Context` adds axioms unless it's in a section.

**Review by mansky1 — APPROVED** [review]
